Q1 (net9 net9 VSS 0) npn
Q0 (net8 net8 VSS 0) npn
MM8 (net9 net9 VSS VSS) nmos4
MM7 (VOUT1 net9 VSS VSS) nmos4
MM3 (net20 net8 net16 VSS) nmos4
MM0 (net11 net5 net16 VSS) nmos4
MM4 (net16 net1005 VSS VSS) nmos4
MM6 (net9 net11 VDD VDD) pmos4
MM5 (VOUT1 net20 VDD VDD) pmos4
MM1 (net20 net20 VDD VDD) pmos4
MM2 (net11 net11 VDD VDD) pmos4
MM0 (VB1 net1005 VSS VSS) nmos4
MM8 (net1005 net1005 VSS VSS) nmos4
MM3 (VB1 VB1 VDD VDD) pmos4
MM10 (net1005 net1006 VDD VDD) pmos4
RR0 (VB2 VSS) resistor
MM2 (net1006 net12 VB2 VSS) nmos4
MM0 (net12 VB2 VSS VSS) nmos4
MM3 (net1006 net1006 VDD VDD) pmos4
MM1 (net12 net1006 VDD VDD) pmos4
R2 (VOUT1 net8) resistor
R1 (VOUT1 net5) resistor
R0 (net5 net9) resistor